current_source_t_network - fault test
I1 0 a DC 0.005
R_s a b 498.297498
R_p b 0 1018.76871
R_L b c 1490.482999
R_leak c 0 88952906.983199
.op
.control
run
print v(a) v(b) v(c)
print @r_s[i] @r_p[i] @r_l[i] @r_leak[i]
print @i1[i]
.endc
.end
